US05798353
1,3-Dihydro-5-(2,6-dimethoxy-4-methylphenyl)-3-hydroxyimino-1-methyl-1,4-benzodiazepin-2-one (Compound 10)
To a suspension of 9 g of 1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one in 300 ml of toluene are added portionwise, with cooling to -20° C., 7.8 g of potassium tert-butoxide, then the temperature is allowed to rise slowly to 0° C. over 35 minutes, the mixture is cooled to -20° C. and 3.9 g of isoamyl nitrite in 50 ml of toluene are added dropwise. The reaction mixture is then stirred at 0° C. for 90 minutes, followed successively by pouring of the reaction mixture into water, adjustment of the pH to 4 with acetic acid, extraction with ethyl acetate, washing of the organic phase with water, drying over sodium sulphate and evaporation to dryness. The residue is crystallized from isopropyl ether, filtered and dried to give beige crystals melting at 150° C.; Yield=76%.

reactant | 1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one | 9 g | COC1=C(C(=CC(=C1)C)OC)C1=NCC(N(C2=C1C=CC=C2)C)=O | C19H20N2O3
reactant | potassium tert-butoxide | 7.8 g | CC(C)([O-])C.[K+]
reactant | isoamyl nitrite | 3.9 g | N(=O)OCCC(C)C | C5H11NO2
reactant | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,3-Dihydro-5-(2,6-dimethoxy-4-methylphenyl)-3-hydroxyimino-1-methyl-1,4-benzodiazepin-2-one | Yield=76% | COC1=C(C(=CC(=C1)C)OC)C1=NC(C(N(C2=C1C=CC=C2)C)=O)=NO | C19H19N3O4
